### PR TITLE
feat: improve verification

### PR DESCRIPTION
**Pull request by ajewellamz**
*Description of changes:*

CanonizeForEn(De)crypt moved to Canonize.ForEn(De)crypt, using mech different verification strategy.

Output ensure's for En(De)cryptPathStructure moved to lemmas, so they never need to see the final opaque ensured predicate.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: DynamoDbEncryption/dafny/StructuredEncryption/src/SortCanon.dfy [hunk 1]
```diff
@@ -185,21 +202,101 @@ module SortCanon {
...
+    ret
   }
 
+  lemma {:axiom} CanonCryptoListMultiNoDup(a: CanonCryptoList, b: CanonCryptoList)
+    requires CanonCryptoListHasNoDuplicates(a) && multiset(a) == multiset(b)
+    ensures CanonCryptoListHasNoDuplicates(b)
+
+  lemma {:axiom} CanonAuthListMultiNoDup(a: CanonAuthList, b: CanonAuthList)
+    requires CanonAuthListHasNoDuplicates(a) && multiset(a) == multiset(b)
+    ensures CanonAuthListHasNoDuplicates(b)
```
Comment (seebees) [inline DynamoDbEncryption/dafny/StructuredEncryption/src/SortCanon.dfy:253]: You can clean up the intermediate lemmas but :)

```suggestion
  lemma MultisetHasNoDuplicates(xs: CanonCryptoList)
    requires CanonCryptoListHasNoDuplicates(xs)
    ensures forall x | x in multiset(xs) :: multiset(xs)[x] == 1
  {
    if |xs| == 0 {
    } else {
      assert xs == Seq.DropLast(xs) + [Seq.Last(xs)];
      assert Seq.Last(xs) !in Seq.DropLast(xs);
      assert CanonCryptoListHasNoDuplicates(Seq.DropLast(xs));
      MultisetHasNoDuplicates(Seq.DropLast(xs));
    }
  }

  lemma MultisetHasNoDuplicates2(xs: CanonAuthList)
    requires CanonAuthListHasNoDuplicates(xs)
    ensures forall x | x in multiset(xs) :: multiset(xs)[x] == 1
  {
    if |xs| == 0 {
    } else {
      assert xs == Seq.DropLast(xs) + [Seq.Last(xs)];
      assert Seq.Last(xs) !in Seq.DropLast(xs);
      assert CanonAuthListHasNoDuplicates(Seq.DropLast(xs));
      MultisetHasNoDuplicates2(Seq.DropLast(xs));
    }
  }

  lemma CanonCryptoListMultiNoDup(a: CanonCryptoList, b: CanonCryptoList)
    requires CanonCryptoListHasNoDuplicates(a) && multiset(a) == multiset(b)
    ensures CanonCryptoListHasNoDuplicates(b)
  {
    forall i,j | 0 <= i < j < |b|
      ensures b[i].origKey != b[j].origKey
    {
      assert b[i] in multiset(a);
      assert b[j] in multiset(a);

      if b[i] == b[j] {
        assert b[i].origKey == b[j].origKey;
        MultisetHasNoDuplicates(a);
        assert multiset(b)[b[i]] == 1;
        assert b == b[..i] + [b[i]] + b[i+1..j] + [b[j]] + b[j+1..];
      } else {
        assert b[i].origKey != b[j].origKey;
      }
    }
  }

  lemma CanonAuthListMultiNoDup(a: CanonAuthList, b: CanonAuthList)
    requires CanonAuthListHasNoDuplicates(a) && multiset(a) == multiset(b)
    ensures CanonAuthListHasNoDuplicates(b)
  {
    forall i,j | 0 <= i < j < |b|
      ensures b[i].origKey != b[j].origKey
    {
      assert b[i] in multiset(a);
      assert b[j] in multiset(a);

      if b[i] == b[j] {
        assert b[i].origKey == b[j].origKey;
        MultisetHasNoDuplicates2(a);
        assert multiset(b)[b[i]] == 1;
        assert b == b[..i] + [b[i]] + b[i+1..j] + [b[j]] + b[j+1..];
      } else {
        assert b[i].origKey != b[j].origKey;
      }
    }
  }
```

File: DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy [hunk 2]
```diff
@@ -0,0 +1,687 @@
...
+  import opened Types = AwsCryptographyDbEncryptionSdkStructuredEncryptionTypes
+  import opened Wrappers
+  import opened StandardLibrary
+  import opened StandardLibrary.UInt
+  import Header = StructuredEncryptionHeader
+  import Paths = StructuredEncryptionPaths
+  import SortCanon
+  import Relations
+
+  predicate method {:opaque} IsValidPath(path : Path)
```
[the remark this answers is not in the document]
Comment (ajewellamz) [reply DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy:19]: Because Paths.ValidPath() is used in a lot of other places, and making it opaque cascaded into too many things.
I did change IsValidPath() to be ghost, which at least should make things clearer.

File: DynamoDbEncryption/dafny/StructuredEncryption/src/Crypt.dfy [hunk 3]
```diff
@@ -125,77 +130,34 @@ module StructuredEncryptionCrypt {
...
               && |ret.value| == |data|
               && (forall i | 0 <= i < |data| :: Updated(data[i], ret.value[i], DoEncrypt))
+              && CanonCryptoListHasNoDuplicates(ret.value)
+              && IsCryptoSorted(ret.value)
+              && CanonCryptoUpdatedCryptoList(tableName, origData, ret.value)
   {
-    ret := Crypt(DoEncrypt, client, alg, key, head, data);
+    reveal CanonCryptoMatchesCryptoList();
+    var result :- Crypt(DoEncrypt, client, alg, key, head, data);
+    assume {:axiom} CanonCryptoUpdatedCryptoList(tableName, origData, result);
```
[the remark this answers is not in the document]
Comment (ajewellamz) [reply DynamoDbEncryption/dafny/StructuredEncryption/src/Crypt.dfy:159]: Because Decrypt needs CanonCryptoUpdatedAuthList and Encrypt needs CanonCryptoUpdatedCryptoList.
I should need an axiom, I just need to get to that.

File: DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy [hunk 4]
```diff
@@ -0,0 +1,687 @@
...
+    requires CryptoUpdatedAuthList(origData, input)
+    // requires exists x :: x in input && x.key == HeaderPath
+    // requires exists x :: x in input && x.key == FooterPath
+
+    ensures DecryptPathFinal(origData, ret)
+  {
+    reveal CryptoUpdatedAuthList();
+    reveal DecryptPathFinal();
+    var finalData := RemoveHeaderPaths(input);
+    assume {:axiom} |finalData| == |origData| - 2;
```
[the remark this answers is not in the document]
Comment (ajewellamz) [reply DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy:683]: Right. Still a work in progress. 
Even after ensuring that header and footer were in there, I still couldn't quite get this to verify, so I decided I didn't need it.

File: DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy [hunk 5]
```diff
@@ -0,0 +1,687 @@
...
+  {
+    && (forall k <- data :: AuthUpdatedCanonCrypto(k, canonList))
+    && (forall k <- canonList :: CanonCryptoUpdatedAuth(k, data))
+    && |data| == |canonList|
+    && (forall k <- canonList :: IsValidPath(k.origKey))
+    && (forall k <- canonList :: IsCanonPath(tableName, k.origKey, k.key))
+    && CanonCryptoListHasNoDuplicates(canonList)
+  }
+
+  predicate {:opaque} CryptoUpdatedAuthList(data : AuthList, canonList : CryptoList)
```
[the remark this answers is not in the document]
Comment (ajewellamz) [reply DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy:305]: Done

File: DynamoDbEncryption/dafny/StructuredEncryption/src/SortCanon.dfy (hunk 1 above)
Comment (ajewellamz) [reply DynamoDbEncryption/dafny/StructuredEncryption/src/SortCanon.dfy:253]: You da man!

File: DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy [hunk 6]
```diff
@@ -0,0 +1,687 @@
...
+    && CryptoListHasNoDuplicates(finalData)
+  }
+
+  function method RemoveHeaderPaths(xs : CryptoList) : (ret : CryptoList)
+    requires CryptoListHasNoDuplicates(xs)
+    ensures !exists x :: x in ret && x.key in [HeaderPath, FooterPath]
+    ensures !exists x :: x in ret && x.key == HeaderPath
+    ensures !exists x :: x in ret && x.key == FooterPath
+    ensures forall x <- ret :: x in xs
+    ensures forall x <- xs :: x.key in [HeaderPath, FooterPath] || x in ret
```
[the remark this answers is not in the document]
Comment (seebees) [reply DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy:799]: removing all the `{:axiom}` resolved what I was trying to say.

File: DynamoDbEncryption/dafny/StructuredEncryption/src/AwsCryptographyDbEncryptionSdkStructuredEncryptionOperations.dfy [hunk 7]
```diff
@@ -593,23 +593,24 @@ module AwsCryptographyDbEncryptionSdkStructuredEncryptionOperations refines Abst
...
-    reveal CryptoUpdatedCryptoList();
+    reveal CryptoUpdatedCryptoListHeader();
     reveal CryptoUpdatedNewCrypto();
   }
 
   //= specification/structured-encryption/encrypt-path-structure.md#encrypted-structured-data
   //= type=implication
-  //# - There MUST be no other entries in the final Encrypted Structured Data.
+  //# - For every entry in the final Encrypted Structured Data, other than the header and footer,
+  //# an entry MUST exist with the same [path](./structures.md#path) int the input [Crypto List](#crypto-list).
```
Comment (seebees) [inline DynamoDbEncryption/dafny/StructuredEncryption/src/AwsCryptographyDbEncryptionSdkStructuredEncryptionOperations.dfy:606]: ?
```suggestion
  //# an entry MUST exist with the same [path](./structures.md#path) in the input [Crypto List](#crypto-list).
```

File: DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy [hunk 8]
```diff
@@ -163,18 +163,20 @@ module Canonize {
...
     : (ret : Result<CanonCryptoList, Error>)
     requires CryptoListHasNoDuplicates(data)
+    requires !exists x | x in data :: x.key in HeaderPaths
     ensures ret.Success? ==>
               && CanonCryptoMatchesCryptoList(tableName, data, ret.value)
               && IsCryptoSorted(ret.value)
   {
-    :- Need(forall k <- data :: IsValidPath(k.key), E("Invalid Paths"));
+    reveal IsValidPath();
+    :- Need(forall k <- data :: Paths.ValidPath(k.key), E("Invalid Paths"));
```
Comment (seebees) [inline DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy:172]: NIce

File: DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy [hunk 9]
```diff
@@ -598,47 +634,146 @@ module Canonize {
       [newItem] + UnCanon(input[1..])
   }
 
+  lemma SameUnCanonUpdatedAll23()
```
Comment (seebees) [inline DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy:637]: 23?

Comment (ajewellamz) [reply DynamoDbEncryption/dafny/StructuredEncryption/src/Canonize.dfy:638]: Update2 ==> Update3

**Review by seebees — APPROVED** [review]
LGTM
